US07109225B2
c] (2-tert-Butyl-5-methyl-oxazol-4-yl)-acetonitrile
To 5.72 g of NaCN (116.8 mmol), dissolved in 77 ml of DMSO, was slowly added via dropping funnel 14.14 g of the above prepared 2-tert-butyl-4-chloromethyl-5-methyl-oxazole (75.3 mmol) at such a rate that the internal temperature stayed at 25–30°. Stirring was continued for an additional 1.5 h at 35°. The reaction mixture was then poured onto crashed ice/AcOEt, the organic layer washed with water, dried over sodium sulfate, and evaporated to dryness. Thereby, 13.19 g of the title product was obtained, which was used without further purification for the next step.

reactant | NaCN | 116.8 mmol, 5.72 g | [C-]#N.[Na+]
reactant | 2-tert-butyl-4-chloromethyl-5-methyl-oxazole | 75.3 mmol | C(C)(C)(C)C=1OC(=C(N1)CCl)C | C9H14ClNO
solvent | DMSO | 77 ml | CS(=O)C | C2H6OS
product | (2-tert-Butyl-5-methyl-oxazol-4-yl)-acetonitrile | 13.19 g | C(C)(C)(C)C=1OC(=C(N1)CC#N)C | C10H14N2O
